US07919504B2
6-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)benzo[d]oxazol-2(3H)-one.
tert-Butyl (S)-1-(5-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (130 mg, 205 μmol) in 10 mL DCM was treated with 10 mL TFA for 60 minutes. After removing the solvent, the remaining residue was dissolved in 100 mL EtOAc. The resulting solution was washed with a mixture of aqueous saturated sodium bicarbonate plus 5% 5N NaOH, then twice with saturated sodium bicarbonate. The organic layer was dried over sodium sulfate. Removal of the solvent gave the title compound 6-(5-((S)-2-amino-3-(4(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)benzo[d]oxazol-2(3H)-one as an off-white amorphous solid (47 mgs, 53%). LCMS (API-ES) m/z (%): 436.0 (100%, M++H); 1H NMR (400 MHz, CD3OD) δ ppm 2.78 (dd, J=13.60, 7.53 Hz, 1H) 2.99 (dd, J=13.60, 5.58 Hz, 1H) 3.35-3.40 (m, 1H) 3.40-3.47 (m, 1H) 3.48-3.55 (m, 1H) 7.13 (d, J=8.22 Hz, 1H) 7.48 (d, J=8.02 Hz, 2H) 7.53 (dd, J=8.12, 1.47 Hz, 1H) 7.62 (d, J=7.24 Hz, 3H).

reactant | tert-Butyl (S)-1-(5-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 205 μmol, 130 mg | O=C1OC2=C(N1)C=CC(=C2)C2=NN=C(S2)N(C[C@H](CC2=CC=C(C=C2)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H32F3N5O6S
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-((S)-2-amino-3-(4(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)benzo[d]oxazol-2(3H)-one | 47 mgs, 53% | N[C@H](CNC1=NN=C(S1)C1=CC2=C(NC(O2)=O)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C19H16F3N5O2S
